US07329683B2
To a sample of 103 mg (0.822 mmol) of 1H,3H,4H,7H,8H-azocin-2-one in 5 mL of dichloromethane was added 183 mg (1.234 mmol) of trimethyloxonium tetrafluoroborate. The reaction was stirred at room temperature for 16 h, after which time it was diluted with 15 mL of methylene chloride and extracted twice with 5 mL of saturated aqueous NaHCO3 and once with 5 mL of brine. The organic layer was dried over MgSO4, filtered, and the concentrated under reduced pressure. The 8-methoxy-2H,3H,6H,7H-azocine thus produced (92 mg) was used without purification in the next reaction. 1H NMR (500 MHz, CDCl3): δ 5.82 (m, 1H), 5.69 (m, 1H), 4.22 (s, 3H), 4.04 (q, 2H, J=6 Hz), 3.03 (t, 2H, J=6 Hz), 2.73 (br apparent q, 2H, J=6 Hz), 2.63 (apparent q, 2H, J=6 Hz).

reactant | 1H,3H,4H,7H,8H-azocin-2-one | 0.822 mmol, 103 mg | N1C(CCC=CCC1)=O | C7H11NO
reactant | trimethyloxonium tetrafluoroborate | 1.234 mmol, 183 mg | F[B-](F)(F)F.C[O+](C)C
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 8-methoxy-2H,3H,6H,7H-azocine | COC=1CCC=CCCN1 | C8H13NO
